US04244957
Preparation of 4-{[2-[(2,6-dichlorophenyl)imino]-1-imidazolidinyl]oxy}-butyric acid
4.80 g. of ethyl 4-{[2-[(2,6-dichlorophenyl)imino]-1-imidazolidinyl]oxy}butyrate are dissolved in 100 ml. of ethanol, 26.6 ml. of 1 N caustic soda solution are added at room temperature and the mixture is left to stand overnight. The solution is then neutralized with 26.6 ml. of 1 N hydrochloric acid and evaporated in vacuo. The dried residue is digested with a hot 1:1:1 mixture of acetonitrile/ethyl acetate/chloroform. The salt is then filtered off from the solution and the filtrate is evaporated in vacuo. The residue is recrystallized from hot acetonitrile, whereupon 4-{[2-[(2,6-dichlorophenyl)imino]-1-imidazolidinyl]oxy}-butyric acid, m.p. 115°-116° (from acetonitrile) is obtained.

reactant | ethyl 4-{[2-[(2,6-dichlorophenyl)imino]-1-imidazolidinyl]oxy}butyrate | ClC1=C(C(=CC=C1)Cl)N=C1N(CCN1)OCCCC(=O)OCC | C15H19Cl2N3O3
reactant | caustic soda | 1 N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-{[2-[(2,6-dichlorophenyl)imino]-1-imidazolidinyl]oxy}-butyric acid | ClC1=C(C(=CC=C1)Cl)N=C1N(CCN1)OCCCC(=O)O | C13H15Cl2N3O3
